US08802852B2
b) N-(2,6-diisopropylphenyl)-4-(6-azido-1-hexinyl)-naphthaline-1,8-dicarboxylic acid imide
A solution of 0.50 g (0.82 mmol) N-(2,6-diisopropylphenyl)-4-(6-tosyloxy-1-hexinyl)-naphthaline-1,8-dicarboxylic acid imide and 0.36 g (5.5 mmol) sodium azide were stirred for 17 hours at room temperature under nitrogen atmosphere. 250 ml acetic acid and saturated sodium chloride solution were added to the reaction mixture. After mixing, the organic phase was removed and washed once with saturated sodium chloride solution and two times with water. The organic phase was dried with MgSO4 and the solvent was evaporated in a rotary evaporator at a temperature of the water-bath of 25° C. The obtained oil (0.40 g) was purified on silica gel ((60 Å, 60-200 μm) free flow agent: methylene chloride. 0.10 g (25% of the theoretical yield) of a orange-yellow solid material were obtained.

reactant | N-(2,6-diisopropylphenyl)-4-(6-tosyloxy-1-hexinyl)-naphthaline-1,8-dicarboxylic acid imide | 0.82 mmol, 0.50 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C(O)C1=CC=C(C2=CC=CC(=C12)C(=O)O)C#CCCCCOS(=O)(=O)C1=CC=C(C)C=C1 | C37H39NO6S
reactant | sodium azide | 5.5 mmol, 0.36 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | N-(2,6-diisopropylphenyl)-4-(6-azido-1-hexinyl)-naphthaline-1,8-dicarboxylic acid imide | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C(O)C1=CC=C(C2=CC=CC(=C12)C(=O)O)C#CCCCCN=[N+]=[N-] | C30H32N4O3
